US06911543B2
Methyl furo[3,2-c]pyridine-6-carboxylate (1.55 g, 8.74 mmol) is dissolved in MeOH (30 mL) and H2O (15 mL), treated with 3 N NaOH (6.4 mL) and stirred at RT for 7 h. The mixture is concentrated to dryness, dissolved in H2O (10 mL) and acidified to pH 2 with concentrated HCl. The solution is concentrated to dryness, suspended in a smaller amount of water (7 mL) and the resulting solid collected via filtration (lot A). The filtrate is concentrated, triturated with water (3 mL) and the resulting solid collected via filtration (lot B). The filtrate from lot B is concentrated and carried on without further purification as an acid/salt mixture (lot C). Both lots A and B are dried in a vacuum oven at 50° C. for 18 h to afford 690 mg (48%) for lot A and 591 mg (42%) for lot B of furo[3,2-c]pyridine-6-carboxylic acid as yellow solids. MS (CI) m/z: 164 (M+H+).

reactant | Methyl furo[3,2-c]pyridine-6-carboxylate | 8.74 mmol, 1.55 g | O1C=CC=2C=NC(=CC21)C(=O)OC | C9H7NO3
reactant | NaOH | 3 N, 6.4 mL | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
product | furo[3,2-c]pyridine-6-carboxylic acid | O1C=CC=2C=NC(=CC21)C(=O)O | C8H5NO3
